US07417169B2
Ethyl 4′-{2-[(R)-2-hydroxy-2-(4-hydroxy-3-methanesulfonylaminophenyl)ethylamino]ethoxy}-2′,6′-dimethylbiphenyl-4-carboxylate hydrochloride (Compound 36)
Ethyl 4′-{2-[(R)-2-hydroxy-2-(4-hydroxy-3-methanesulfonylaminophenyl)ethylamino]ethoxy}-2′,6′-dimethylbiphenyl-4-carboxylate was dissolved in ethyl acetate (4.3 mL), and a 4 mol/L solution of hydrogen chloride in ethyl acetate (0.2 mL) was added dropwise to the ice-cooled solution with stirring. The reaction mixture was concentrated in vacuo, and the residue was diluted with diethyl ether. The insoluble material was collected by filtration to afford the title compound (0.173 g).

reactant | Ethyl 4′-{2-[(R)-2-hydroxy-2-(4-hydroxy-3-methanesulfonylaminophenyl)ethylamino]ethoxy}-2′,6′-dimethylbiphenyl-4-carboxylate | O[C@@H](CNCCOC1=CC(=C(C(=C1)C)C1=CC=C(C=C1)C(=O)OCC)C)C1=CC(=C(C=C1)O)NS(=O)(=O)C | C28H34N2O7S
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 4.3 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 0.2 mL | C(C)(=O)OCC | C4H8O2
product | Ethyl 4′-{2-[(R)-2-hydroxy-2-(4-hydroxy-3-methanesulfonylaminophenyl)ethylamino]ethoxy}-2′,6′-dimethylbiphenyl-4-carboxylate hydrochloride | 0.173 g | Cl.O[C@@H](CNCCOC1=CC(=C(C(=C1)C)C1=CC=C(C=C1)C(=O)OCC)C)C1=CC(=C(C=C1)O)NS(=O)(=O)C | InChI=1S/C28H34N2O7S.ClH/c1-5-36-28(33)21-8-6-20(7-9-21)27-18(2)14-23(15-19(27)3)37-13-12-29-17-26(32)22-10-11-25(31)24(16-22)30-38(4,34)35;/h6-11,14-16,26,29-32H,5,12-13,17H2,1-4H3;1H/t26-;/m0./s1
